US05602161
4-[5-(3-Dimethylamino-4-pivaloyloxyphenyl)tetrazol-2-ylmethyl]benzoic acid
To a solution of aqueous 10% sodium hydroxide (0.67 ml) in methanol (5 ml) was added methyl 4-[5-(3-dimethylamino-4-hydroxyphenyl)tetrazol-2-ylmethyl]benzoate (296 mg) obtained in reference example 6. The mixture was heated at 50° C. for 1 h, and the solvent was evaporated. To the residue were added acetone (10 ml) and H2O (10 ml), and pivaloyl chloride (150 mg) was added dropwise to it under ice cooling. The mixture was stirred at the same temperature for 1 h, acidified with aqueous citric acid, and extracted with ethyl acetate. The extract was dried and evaporated to dryness. The residue was purified by column chromatography on silica gel with chloroform-methanol (100/4-5) as an eluate to give 46 mg (12%) of the title compound.

reactant | sodium hydroxide | 0.67 ml | [OH-].[Na+]
reactant | methyl 4-[5-(3-dimethylamino-4-hydroxyphenyl)tetrazol-2-ylmethyl]benzoate | 296 mg | CN(C=1C=C(C=CC1O)C=1N=NN(N1)CC1=CC=C(C(=O)OC)C=C1)C | C18H19N5O3
reactant | methanol | 5 ml | CO | CH4O
product | 4-[5-(3-Dimethylamino-4-pivaloyloxyphenyl)tetrazol-2-ylmethyl]benzoic acid | 46 mg, 12% | CN(C=1C=C(C=CC1OC(C(C)(C)C)=O)C=1N=NN(N1)CC1=CC=C(C(=O)O)C=C1)C | C22H25N5O4
